2198-08-28 07:13:00 Physician Resident Progress Note
Chief Complaint: switched to aerosol mask from BIPAP b/c patient felt
   like she could not cough.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2198-8-27**] 09:40 AM
 ULTRASOUND - At [**2198-8-27**] 12:15 PM
 NASAL SWAB - At [**2198-8-27**] 04:50 PM
 ARTERIAL LINE - START [**2198-8-27**] 06:30 PM
   -started on home BP meds (lopressor 100mg [**Hospital1 7**], clonodine .2mg daily)
   b/c hypertensive>200's systolic and tachycardic
   -lactate trending down
   -BNP=815
   -gave IV lasix b/c somewhat fluid overloaded; breathing unchanged
   -c/o headache, anxious, gave extra pain meds; had musculoskeletal chest
   pain
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-8-27**] 09:50 PM
   Vancomycin - [**2198-8-27**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2198-8-27**] 11:45 AM
   Heparin Sodium - [**2198-8-27**] 09:49 PM
   Furosemide (Lasix) - [**2198-8-27**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-8-28**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 69 (69 - 125) bpm
   BP: 136/81(98) {125/75(91) - 195/104(130)} mmHg
   RR: 17 (13 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 121 kg
   Height: 63 Inch
             Total In:
                                                                  3,348 mL
                                                                    127 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,608 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    430 mL
   Urine:
                                                                  1,660 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,688 mL
                                                                   -303 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 739 (681 - 1,030) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.31/47/130/24/-2
   Ve: 19.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General: Tachypneic, alert.
   HEENT: + marked anisocoria (R 3->2, L 7->6) EOMI.  Anicteric. Mask in
   place - not removed [**1-15**] difficulty obtaining proper fit.
   Neck: Obese, JVD elevation not appreciable.
   Chest:  Coughing with deep inspiration.  No wheezes or rhonchi
   appreciated, though poor effort.  +bibasilar crackles.
   Heart: regular, , no murmur appreciated.
   Abdomen: +BS, obese, soft, NT/ND
   Extrem: 1+ bilat edema though R slightly greater than left; + R calf
   tenderness, no erythema
   Neuro: A/O x3, strength 5/5 UE and LE.
   Labs / Radiology
   150 K/uL
   11.3 g/dL
   158 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.8 mEq/L
   20 mg/dL
   105 mEq/L
   138 mEq/L
   34.4 %
   15.2 K/uL
        [image002.jpg]
                             [**2198-8-27**]  10:58 AM
                             [**2198-8-27**]  07:20 PM
                             [**2198-8-28**]  03:03 AM
                             [**2198-8-28**]  06:36 AM
   WBC
   15.2
   Hct
   34.4
   Plt
   150
   Cr
   0.8
   TCO2
   20
   22
   25
   Glucose
   158
   Other labs: PT / PTT / INR:13.6/150.0/1.2, D-dimer:815 ng/mL, Lactic
   Acid:2.6 mmol/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 TACHYCARDIA, OTHER
   A/P: 55F with COPD, TBM, admitted with respiratory distress; with BiPAP
   requirement, tachycardia, and elevated lactate.
   .
   # Respiratory distress.  Patient with baseline significant TBM and
   ?other type of COPD, though patient denies emphysema/asthma.  Unclear
   reason for having TBM.  Differential for acute change includes COPD
   exacerbation (if reactive airways truly present), pneumonia, PE.  ALso
   metabolic acidosis from lactate as below likely to be contributing, as
   patient with poor respiratory reserve and unlikely to be able to
   satisfactorily compensate from respiratory standpoint. Patient switched
   to aerosol mask last night, given ativan, now with worsening
   acidosis/hypercarbia--> will switch back to BiPAP.
   - Serial ABGs
   - sputum culture if able.  BAL if bronched. Urine legionella ag.
   - check flu/virals.
   - PE workup - D dimer 815; to either VQ (abnl CXR) or CTA (I- allergy)
   but may need.  Empiric heparin IV while undergoing workup.
   - BNP  374; gave IV lasix b/c appeared fluid overloaded as well; will
   evaluate pulm edema on CXR
   - IP aware, f/u recs.
   - Vanc azithro and ceftriaxone for CAP; consider broadening given
   recent steroids if febrile. Consider DC vanc tomorrow if clinically
   stable and no e/o GPCs in culture data
   - Consider intubation if acidosis though to be more related to WOB and
   need for rest, or if patient fatigues.
   - continue low dose steroids (hydrocort 25 Q8 yesterday) will wean to
   25 q 12h today and continue to wean c pred tomorrow
   .
   # Tachycardia. Improved. Likely due to med effect (nebs) vs. sepsis vs.
   hypovolemia vs. PE.  On lopressor at baseline.
   - lopressor restarted
   - Infectious workup
   - Bolus 1 liter NS and further prn.
   .
   # Elevated lactate.  Seems to be maintaining perfusion with normal BPs,
   though tachycardic.  No evidence of bowel ischemia/abd benign.  No
   metformin use.  No risk factor for thiamine deficiency.  Presume
   hypoperfusion vs. significant work of breathing at this point, possibly
   more likely to hypoperfusion given improvement in lactates with fluids.
   - Broad spectrum antibiotics at this point; add vanco and changing
   cipro to ceftriaxone as above.  Infectious workup.
   - LFTs and LDH wnl
   - rec/d thiamine yesterday, but will dc today
   .
   # Metabolic acidosis. Resolved.  Likely lactic acidosis with very
   elevated lactate as above.  Also with small ketones in urine.
   - Bolus another liter NS.
   - D5 IVFs if prolonged NPO; insulin.
   .
   # Anisocoria.  Likely med effect from atrovent.
   - Continue to monitor.
   .
   # LE pain and edema.
   - LENIs negative; improvement with lasix. will diurese PRN.
   .
   # FEN. NPO with NIPPV mask, sips prn.
   # Ppx. HSQ, H2B.
   # Access. PIV x 2 though difficult access patient, CVL vs. PICC today.
   # Code: full.
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-8-27**] 10:00 AM
   22 Gauge - [**2198-8-27**] 10:00 AM
   Arterial Line - [**2198-8-27**] 06:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2198-08-29 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2198-8-28**] 12:00 PM
   -abg at 3p off bipap is 7.4/46/89
   -echo: preserved EF: IMPRESSION: Suboptimal image quality. Preserved
   left ventricular function. Possible right ventricular hypokinesis, but
   image quality is limited. At least borderline pulmonary hypertension.
   -neg 1.5 liters at 6pm
   -dced heparin as V/Q scan was neg
   -PICC placed
   -anxious in early morning c stridor and sats down from 98% to 94%.
   Placed back on bipap ([**7-18**]) and pt relaxed. abg on bipap 7.43/44/98. now
   off this AM with ABG: 7.39/49/81
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-8-28**] 05:00 PM
   Vancomycin - [**2198-8-28**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-8-28**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-8-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 66 (60 - 81) bpm
   BP: 138/76(95) {101/65(81) - 175/99(122)} mmHg
   RR: 15 (8 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 121 kg
   Height: 63 Inch
             Total In:
                                                                    932 mL
                                                                     74 mL
   PO:
             TF:
   IVF:
                                                                    932 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    435 mL
   Urine:
                                                                  2,335 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,403 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 815 (155 - 815) mL
   PS : 7 cmH2O
   RR (Spontaneous): 16
   PEEP: 7 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: 7.39/49/81.[**Numeric Identifier 218**]/27/3
   Ve: 6.1 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   11.3 g/dL
   121 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.2 mEq/L
   20 mg/dL
   106 mEq/L
   142 mEq/L
   33.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2198-8-27**]  10:58 AM
                             [**2198-8-27**]  07:20 PM
                             [**2198-8-28**]  03:03 AM
                             [**2198-8-28**]  06:36 AM
                             [**2198-8-28**]  02:29 PM
                             [**2198-8-28**]  07:25 PM
                             [**2198-8-29**]  03:55 AM
                             [**2198-8-29**]  05:24 AM
                             [**2198-8-29**]  07:15 AM
   WBC
   15.2
   7.6
   Hct
   34.4
   33.7
   Plt
   150
   140
   Cr
   0.8
   0.7
   0.7
   TCO2
   20
   22
   25
   29
   30
   31
   Glucose
   158
   121
   121
   Other labs: PT / PTT / INR:11.7/20.8/1.0, Differential-Neuts:79.4 %,
   Lymph:16.6 %, Mono:3.8 %, Eos:0.1 %, D-dimer:815 ng/mL, Lactic Acid:1.6
   mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: lactate 1.6
   Imaging: echo:
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. Due to suboptimal
   technical quality, a focal wall motion abnormality cannot be fully
   excluded. Overall left ventricular systolic function is normal
   (LVEF>55%). The aortic valve leaflets (3) appear structurally normal
   with good leaflet excursion and no aortic regurgitation. The mitral
   valve leaflets are structurally normal. There is no mitral valve
   prolapse. No mitral regurgitation is seen. There is borderline
   pulmonary artery systolic hypertension. There is no pericardial
   effusion.
   Microbiology: [**2198-8-28**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2198-8-27**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2198-8-27**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2198-8-27**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2198-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2198-8-27**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   Assessment and Plan
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 TACHYCARDIA, OTHER
   A/P: 55F with COPD, TBM, admitted with respiratory distress; with BiPAP
   requirement, tachycardia, and elevated lactate.
   .
   # Respiratory distress.  Patient with baseline significant TBM and
   ?other type of COPD, though patient denies emphysema/asthma.  Unclear
   reason for having TBM.  Differential for acute change includes COPD
   exacerbation (if reactive airways truly present), pneumonia, CHF.  VQ
   scan yesterday negative for PE. Echo showed normal LVEF, but she did
   get 1.5 liters off in past day and has improved breathing; possible
   diastolic component. ALso metabolic acidosis from lactate was likely to
   be contributing, as patient with poor respiratory reserve and unlikely
   to be able to satisfactorily compensate from respiratory standpoint,
   but lactate has now normalized. Patient with stable ABG's only
   requiring BiPAP
   - sputum culture if able.  BAL if bronched. Urine legionella ag
   negative.
   - check flu/virals-preliminarily negative.
   - heparin drip d/c'ed as VQ scan normal
   - BNP  374; Normal LVEF, possible diastolic component. diuresed 1.5L
   yesterday; no longer appears fluid overloaded
   - IP aware, f/u recs.
   - Vanc azithro and ceftriaxone for CAP; Still no sputum sample. Not
   febrile, Consider DC vanc todayif get sputum
   - Consider intubation if acidosis though to be more related to WOB and
   need for rest, or if patient fatigues.
   - continue low dose steroids -wean from hydrocort 25mg Q12 to
   prednisone 40mg daily today
   .
   # Elevated lactate. Resolved.  Presume hypoperfusion vs. significant
   work of breathing at this point, possibly more likely to hypoperfusion
   given improvement in lactates with fluids.
   - Broad spectrum antibiotics at this point; Infectious workup as above.
   - LFTs and LDH wnl
   .
   # Anisocoria.  Likely med effect from atrovent.
   - Continue to monitor.
   .
   # LE pain and edema.
   - LENIs negative; improvement with lasix. will diurese PRN.
   .
   # FEN. NPO with NIPPV mask, sips prn.
   # Ppx. HSQ, H2B.
   # Access. PIV x 2 though difficult access patient, PICC today.
   # Code: full.
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-8-27**] 10:00 AM
   Arterial Line - [**2198-8-27**] 06:30 PM
   PICC Line - [**2198-8-28**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2198-08-30 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   -patient episode of cough, dyspnea and hypertension - given ativan with
   resolution, consider aersolized lidocaine if persistent cough
   Allergies:
   Morphine
   Unknown;
   Betadine (Topical) (Povidone-Iodine)
   Unknown;
   Iodine
   Unknown;
   Demerol (Injection) (Meperidine Hcl)
   swelling/sob;
   Lisinopril
   Angioedema;
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-8-28**] 05:00 PM
   Vancomycin - [**2198-8-29**] 08:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-8-29**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2198-8-29**] 11:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-8-30**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 65 (62 - 77) bpm
   BP: 135/88(105) {117/74(90) - 159/90(110)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120 kg (admission): 121 kg
   Height: 63 Inch
             Total In:
                                                                    860 mL
                                                                     75 mL
   PO:
                                                                    420 mL
             TF:
   IVF:
                                                                    440 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    415 mL
   Urine:
                                                                  1,535 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                   -340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   140 K/uL
   11.3 g/dL
   134 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   25 mg/dL
   105 mEq/L
   141 mEq/L
   33.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2198-8-27**]  10:58 AM
                             [**2198-8-27**]  07:20 PM
                             [**2198-8-28**]  03:03 AM
                             [**2198-8-28**]  06:36 AM
                             [**2198-8-28**]  02:29 PM
                             [**2198-8-28**]  07:25 PM
                             [**2198-8-29**]  03:55 AM
                             [**2198-8-29**]  05:24 AM
                             [**2198-8-29**]  07:15 AM
                             [**2198-8-29**]  10:28 PM
   WBC
   15.2
   7.6
   Hct
   34.4
   33.7
   Plt
   150
   140
   Cr
   0.8
   0.7
   0.7
   0.8
   TCO2
   20
   22
   25
   29
   30
   31
   Glucose
   158
   121
   121
   134
   Other labs: PT / PTT / INR:11.7/20.8/1.0, Differential-Neuts:79.4 %,
   Lymph:16.6 %, Mono:3.8 %, Eos:0.1 %, D-dimer:815 ng/mL, Lactic Acid:1.6
   mmol/L, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: Cholesterol:225
   Triglyc: 275
   HDL: 61
   CHOL/HD: 3.7
   LDLcalc: 109
   Imaging:
   Infrahilar consolidation at both lung bases has been essentially
   unchanged
   since [**8-27**], it could represent either atelectasis or
   pneumonia.
   Mediastinum is exaggerated by low lung volumes and fat deposition, but
   heart
   size does appear to have increased. Upper lungs are clear. No
   pneumothorax
   or appreciable pleural effusion.
   Microbiology: [**2198-8-28**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2198-8-27**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-PRELIMINARY; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2198-8-27**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2198-8-27**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2198-8-27**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   [**2198-8-27**]  URINE URINE CULTURE-FINAL EMERGENCY [**Hospital1 **]
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
 TACHYCARDIA, OTHER
   /P: 55F with COPD, TBM, admitted with respiratory distress; with BiPAP
   requirement, tachycardia, and elevated lactate.
   .
   # Respiratory distress.  Patient with baseline significant TBM and
   ?other type of COPD, though patient denies emphysema/asthma.  Unclear
   reason for having TBM.  Differential for acute change includes COPD
   exacerbation (if reactive airways truly present), pneumonia, CHF.  VQ
   scan yesterday negative for PE. Echo showed normal LVEF, but she did
   get 1.5 liters off in past day and has improved breathing; possible
   diastolic component. ALso metabolic acidosis from lactate was likely to
   be contributing, as patient with poor respiratory reserve and unlikely
   to be able to satisfactorily compensate from respiratory standpoint,
   but lactate has now normalized. Patient with stable ABG's only
   requiring BiPAP
   - sputum culture if able.  BAL if bronched. Urine legionella ag
   negative. Viral cultures negative.
   - heparin drip d/c'ed as VQ scan normal
   - BNP  374; Likely diastolic CHF based on TTE. diuresed 1.5L yesterday;
   will diurese additional liter and likely start 40mg lasix PO daily.
   - IP aware, no plans to place stent inhouse, given possibility of
   infection and fact that stent not likely to address acute symptoms;
   recommended GERD control (will switch from H2B to PPI) and sleep study
   - Vanc azithro and ceftriaxone for CAP; Still no sputum sample. Not
   febrile, will d/c vanc/ceftriaxone and give just azithromycin x 5 days
   for tx of CAP
   - continue rapid taper of low dose steroids -wean from hydrocort 25mg
   Q12 yesterday to prednisone 20mg today
   -large component of anxiety- will give ativan PRN, should contact PCP
   [**Last Name (NamePattern4) **]: possibly starting SSRI
   # FEN. NPO with NIPPV mask, sips prn.
    # Ppx. HSQ, PPI
   # Access. PIV x 2, PICC
   # Code: full.
   # Dispo: to floors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2198-8-27**] 10:00 AM
   Arterial Line - [**2198-8-27**] 06:30 PM
   PICC Line - [**2198-8-28**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor